US07622583B2
To a solution of 4-iodo-1 H-pyrazolo[3,4-b]pyridine (174.2 mg, 0.71 mmol) in THF (3 mL) under nitrogen atmosphere at 0° C. was added dropwise isopropylmagnesium chloride (2 M solution in THF, 1.06 mL, 2.13 mmol). The resulting yellow suspension was then stirred for 30 min at 0° C. followed by the addition of a solution of 4-chloro-N-(2-formyl-5-methyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (300 mg, 0.71 mmol) in THF (2 mL) at 0° C. The mixture was stirred at room temperature for 3 hours, quenched with saturated aqueous NH4Cl solution (5 mL) and extracted with EtOAc (2×25 mL). Combined organic layers were washed with saturated aqueous NH4Cl solution (25 mL), brine (25 mL), dried (anhydrous Na2SO4) and concentrated under reduced pressure. Obtained residue was column purified (SiO2, 50% EtOAc-hexanes) to obtain 4-chloro-N-{5-chloro-2-[hydroxy-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methyl]-pyridin-3-yl}-3-trifluoromethyl-benzene sulfonamide (192 mg) in 50% yield. ESMS m/z (relative intensity): 542 (M+H)+ (100), 564 (M+Na)+ (10).

reactant | 4-iodo-1 H-pyrazolo[3,4-b]pyridine | 0.71 mmol, 174.2 mg | IC1=C2C(=NC=C1)NN=C2 | C6H4IN3
reactant | isopropylmagnesium chloride | 2.13 mmol, 2 M, 1.06 mL | C(C)(C)[Mg]Cl
reactant | 4-chloro-N-(2-formyl-5-methyl-pyridin-3-yl)-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.71 mmol, 300 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)C)C=O)C(F)(F)F | C16H14ClF3N2O4S
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-{5-chloro-2-[hydroxy-(1H-pyrazolo[3,4-b]pyridin-4-yl)-methyl]-pyridin-3-yl}-3-trifluoromethyl-benzene sulfonamide | 192 mg, 50% yield | ClC1=C(C=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C2C(=NC=C1)NN=C2)O)C(F)(F)F | C19H12Cl2F3N5O3S
